US06054470
To a solution of 1-(4-iodophenyl)cyclopropane-1-carboxylic acid (7.98 g, 27 mmol) in methylene chloride (200 mL) containing DMF (0.25 mL) was added dropwise over 30 minutes oxalyl chloride (3.2 mL). The mixture was stirred for 1 hour, and the solvent was removed under reduced pressure. The residue was taken up in THF (100 mL), and potassium t butoxide (1 M in THF, 35 mL) was added. After 30 minutes, the mixture was diluted with hexane, washed with water, dried, filtered and evaporated. The solid residue was recrystallized from methanol to give t butyl 1-(4-iodophenyl)cyclopropane-1-carboxylate (5.74 g, 16.6 mmol, 62%).

reactant | 1-(4-iodophenyl)cyclopropane-1-carboxylic acid | 27 mmol, 7.98 g | IC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9IO2
reactant | DMF | 0.25 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | butyl 1-(4-iodophenyl)cyclopropane-1-carboxylate | 16.6 mmol, 5.74 g, 62% | IC1=CC=C(C=C1)C1(CC1)C(=O)OCCCC | C14H17IO2
